*
*|DSPF 1.5
*
*|DATE "Wed May  8 12:04:40 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "TLATNCAX8"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  TLATNCAX8 CK ECK E
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET CK 2.45958e-16
*|P (CK X 0 0.3000 1.0450)
*|I (Mmn0:g Mmn0 g X 0 0.3775 0.4425)
*|I (Mmp0:g Mmp0 g X 0 0.4325 1.2625)
*|S (CK:2 0.4050 0.8100)
C1 Mmp0:g VSS 4.30786e-17
C2 Mmn0:g VSS 3.80451e-17
C3 CK:2 VSS 9.00367e-17
C4 CK VSS 7.47976e-17
Rl1 CK:2 Mmn0:g 101.098900 $W=0.039
Rl2 Mmp0:g CK:2 121.153854 $W=0.039
Rk3 CK:2 CK 45.183910 $W=0.1
*
*|NET ECK 4.79515e-16
*|P (ECK X 0 3.3000 0.6650)
C5 ECK VSS 4.79515e-16
*
*|NET E 2.87948e-16
*|P (E X 0 0.7000 1.0450)
*|I (Mmn5:g Mmn5 g X 0 0.5825 0.4425)
*|I (Mmp5:g Mmp5 g X 0 0.6375 1.2625)
*|S (E:2 0.6100 0.8700)
C6 Mmp5:g VSS 4.1315e-17
C7 Mmn5:g VSS 7.18528e-17
C8 E:2 VSS 9.72903e-17
C9 E VSS 7.74899e-17
Rl4 E:2 Mmn5:g 124.175819 $W=0.039
Rl5 Mmp5:g E:2 98.076927 $W=0.039
Rk6 E:2 E 45.132576 $W=0.1
*
*|NET CKb 8.69316e-16
*|I (Mmn0:d Mmn0 d X 0 0.2850 0.4425)
*|I (Mmn6:g Mmn6 g X 0 0.6875 0.4425)
*|I (Mmn1:g Mmn1 g X 0 1.6075 0.4425)
*|I (Mmp0:d Mmp0 d X 0 0.3400 1.2625)
*|I (Mmp16:g Mmp16 g X 0 1.0925 1.2625)
*|I (Mmp1:g Mmp1 g X 0 1.6075 1.2625)
*|S (CKb:2 0.7150 0.6500)
*|S (CKb:4 1.0650 0.9350)
*|S (CKb:7 1.6350 0.2600)
*|S (CKb:8 1.0650 0.2650)
*|S (CKb:9 0.2750 0.6200)
C10 Mmp1:g VSS 6.56652e-17
C11 Mmp16:g VSS 3.73029e-17
C12 Mmp0:d VSS 9.49535e-17
C13 Mmn1:g VSS 5.82406e-17
C14 Mmn6:g VSS 5.20573e-17
C15 Mmn0:d VSS 1.86494e-17
C16 CKb:9 VSS 8.06262e-17
C17 CKb:8 VSS 1.36515e-16
C18 CKb:2 VSS 1.1778e-16
C19 CKb:4 VSS 1.23328e-16
C20 CKb:7 VSS 8.41981e-17
Rl7 Mmn6:g CKb:2 84.153313 $W=0.039
Rl8 Mmn1:g CKb:7 74.537926 $W=0.039
Rl9 Mmp16:g CKb:4 116.845619 $W=0.039
Rl10 Mmp1:g Mmn1:g 246.153854 $W=0.039
Rk11 CKb:8 CKb:7 0.465850 $W=0.09
Rk12 CKb:4 CKb:8 0.508674 $W=0.08
Rk13 CKb:8 CKb:2 0.537991 $W=0.085
Rk14 CKb:2 CKb:9 0.316482 $W=0.09
Rk15 CKb:9 Mmn0:d 75.097328 $W=0.09
Rk16 CKb:9 Mmp0:d 62.741516 $W=0.09
*
*|NET net254 0
*|I (Mmn5:d Mmn5 d X 0 0.6350 0.4425)
*|I (Mmn6:s Mmn6 s X 0 0.6350 0.4425)
Rmw17 Mmn6:s Mmn5:d 0.001000 $W=1
*
*|NET n0 6.023e-16
*|I (Mmn6:d Mmn6 d X 0 0.9575 0.4425)
*|I (Mmn10:g Mmn10 g X 0 2.2275 0.5225)
*|I (Mmp6:d Mmp6 d X 0 0.9900 1.2625)
*|I (Mmp10:g Mmp10 g X 0 2.1525 1.1600)
*|S (n0:2 2.1900 0.9050)
*|S (n0:6 0.9900 1.2150)
C21 Mmp10:g VSS 4.67111e-17
C22 Mmp6:d VSS 2.08765e-16
C23 Mmn10:g VSS 4.80064e-17
C24 Mmn6:d VSS 1.06125e-16
C25 n0:2 VSS 1.92692e-16
Rl18 Mmn10:g n0:2 96.153847 $W=0.039
Rl19 n0:2 Mmp10:g 26.373627 $W=0.039
Rk20 n0:6 n0:2 46.258289 $W=0.08
Rk21 Mmn6:d n0:6 75.588951 $W=0.09
Rk22 Mmp6:d n0:6 62.000000 $W=0.09
*
*|NET net230 0
*|I (Mmn16:s Mmn16 s X 0 1.3200 0.4425)
*|I (Mmn15:d Mmn15 d X 0 1.3200 0.4425)
Rmw23 Mmn15:d Mmn16:s 0.001000 $W=1
*
*|NET CKbb 8.91559e-16
*|I (Mmn16:g Mmn16 g X 0 1.2275 0.4425)
*|I (Mmn1:d Mmn1 d X 0 1.7275 0.4425)
*|I (Mmn21@1:g Mmn21@1 g X 0 2.6025 0.4950)
*|I (Mmn21:g Mmn21 g X 0 2.8075 0.4950)
*|I (Mmp6:g Mmp6 g X 0 0.8875 1.2625)
*|I (Mmp1:d Mmp1 d X 0 1.7000 1.2625)
*|I (Mmp21:g Mmp21 g X 0 2.5525 1.2000)
*|S (CKbb:2 1.2550 0.6250)
*|S (CKbb:11 1.2550 0.6250)
*|S (CKbb:13 1.7650 0.4500)
C26 Mmp21:g VSS 2.77405e-16
C27 Mmp1:d VSS 1.00591e-16
C28 Mmp6:g VSS 8.28882e-17
C29 Mmn21:g VSS 5.00228e-17
C30 Mmn21@1:g VSS 4.35248e-17
C31 Mmn1:d VSS 1.35957e-16
C32 Mmn16:g VSS 2.79531e-17
C33 CKbb:2 VSS 1.73218e-16
Rl24 Mmn16:g CKbb:2 24.795059 $W=0.039
Rl25 CKbb:2 Mmp6:g 289.927429 $W=0.039
Rl26 Mmp21:g Mmn21@1:g 24.795059 $W=0.039
Rl27 Mmn21:g Mmp21:g 65.362511 $W=0.039
Rk28 CKbb:11 CKbb:2 45.000000 $W=0.09
Rk29 CKbb:13 CKbb:11 0.495213 $W=0.09
Rk30 CKbb:13 Mmn1:d 75.000000 $W=0.09
Rk31 CKbb:11 Mmp1:d 62.706909 $W=0.09
Rk32 CKbb:13 Mmp21:g 45.812881 $W=0.08
*
*|NET Eint 9.42816e-16
*|I (Mmn15:g Mmn15 g X 0 1.4125 0.4425)
*|I (Mmn10:d Mmn10 d X 0 2.0800 0.5225)
*|I (Mmn20@1:g Mmn20@1 g X 0 2.4975 0.4950)
*|I (Mmn20:g Mmn20 g X 0 2.9125 0.4950)
*|I (Mmp15:g Mmp15 g X 0 1.3425 1.2625)
*|I (Mmp10:d Mmp10 d X 0 2.0350 1.1600)
*|I (Mmp20@1:g Mmp20@1 g X 0 2.3475 1.2000)
*|S (Eint:2 1.4125 0.7850)
*|S (Eint:4 1.4750 0.7850)
*|S (Eint:12 1.9925 0.7350)
*|S (Eint:14 1.9925 0.7950)
C34 Mmp20@1:g VSS 4.14698e-16
C35 Mmp10:d VSS 4.00717e-17
C36 Mmp15:g VSS 5.36954e-17
C37 Mmn20:g VSS 7.88801e-17
C38 Mmn20@1:g VSS 6.99297e-17
C39 Mmn10:d VSS 4.02482e-17
C40 Mmn15:g VSS 5.29128e-17
C41 Eint:12 VSS 6.09657e-17
C42 Eint:2 VSS 4.25519e-17
C43 Eint:4 VSS 8.88629e-17
Rl33 Eint:2 Eint:4 50.165199 $W=0.114
Rl34 Mmn15:g Eint:2 86.000366 $W=0.039
Rl35 Eint:2 Mmp15:g 147.586517 $W=0.039
Rl36 Mmn20@1:g Mmp20@1:g 64.000961 $W=0.039
Rl37 Mmp20@1:g Mmn20:g 91.483521 $W=0.039
Rk38 Eint:14 Eint:4 0.364899 $W=0.09
Rk39 Eint:14 Eint:12 0.057547 $W=0.075
Rk40 Eint:12 Mmn10:d 75.121552 $W=0.09
Rk41 Eint:14 Mmp10:d 62.200413 $W=0.09
Rk42 Eint:12 Mmp20@1:g 0.288475 $W=0.08
*
*|NET 15 1.86308e-18
*|I (Mmn20@1:d Mmn20@1 d X 0 2.5500 0.4950)
*|I (Mmn21@1:s Mmn21@1 s X 0 2.5500 0.4950)
C44 Mmn20@1:d VSS 1.86308e-18
Rmw43 Mmn21@1:s Mmn20@1:d 0.001000 $W=1
*
*|NET ECKb 7.2279e-16
*|I (Mmn21@1:d Mmn21@1 d X 0 2.7050 0.4950)
*|I (Mmn22@1:g Mmn22@1 g X 0 3.1475 0.5125)
*|I (Mmp20@1:d Mmp20@1 d X 0 2.4500 1.2000)
*|S (ECKb:10 3.1100 0.7600)
C45 Mmp20@1:d VSS 1.95041e-16
C46 Mmn22@1:g VSS 3.46362e-16
C47 Mmn21@1:d VSS 6.548e-17
C48 ECKb:10 VSS 1.15907e-16
Rl44 Mmn22@1:g ECKb:10 48.322868 $W=0.094
Rk45 Mmn21@1:d ECKb:10 75.382629 $W=0.09
Rk46 Mmp20@1:d ECKb:10 0.434381 $W=0.08
*
*|NET 16 3.42446e-18
*|I (Mmn21:s Mmn21 s X 0 2.8600 0.4950)
*|I (Mmn20:d Mmn20 d X 0 2.8600 0.4950)
C49 Mmn21:s VSS 3.42446e-18
Rmw47 Mmn20:d Mmn21:s 0.001000 $W=1
*
*|NET net217 0
*|I (Mmp5:d Mmp5 d X 0 0.7625 1.2625)
*|I (Mmp6:s Mmp6 s X 0 0.7625 1.2625)
Rmw48 Mmp6:s Mmp5:d 0.001000 $W=1
*
*|NET net205 4.56641e-18
*|I (Mmp16:s Mmp16 s X 0 1.2175 1.2625)
*|I (Mmp15:d Mmp15 d X 0 1.2175 1.2625)
C50 Mmp16:s VSS 4.56641e-18
Rmw49 Mmp15:d Mmp16:s 0.001000 $W=1
*
*Instance Section
*
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=1.4e-07 sb=1.425e-06 sca=10.0732 scb=0.00911402 scc=0.000253284
Mmn5	Mmn5:d	Mmn5:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0087P	AS=0.0232P	PD=0.41U	PS=0.61U
+ fw=1.45e-07 sa=3.45e-07 sb=1.22e-06 sca=10.0732 scb=0.00911402 scc=0.000253284
Mmn6	Mmn6:d	Mmn6:g	Mmn6:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.07177P	AS=0.0087P	PD=1.28U	PS=0.41U
+ fw=1.45e-07 sa=4.5e-07 sb=1.115e-06 sca=10.0732 scb=0.00911402 scc=0.000253284
Mmn16	Mmn6:d	Mmn16:g	Mmn16:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.07177P	AS=0.0203P	PD=1.28U	PS=0.57U
+ fw=1.45e-07 sa=9.9e-07 sb=5.75e-07 sca=10.0732 scb=0.00911402 scc=0.000253284
Mmn15	Mmn15:d	Mmn15:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.04825P	PD=0.57U	PS=1.37U
+ fw=1.45e-07 sa=1.175e-06 sb=3.9e-07 sca=10.0732 scb=0.00911402 scc=0.000253284
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02828P	AS=0.04825P	PD=0.68U	PS=1.37U
+ fw=1.45e-07 sa=1.37e-06 sb=1.95e-07 sca=10.0732 scb=0.00911402 scc=0.000253284
Mmn10	Mmn10:d	Mmn10:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.05125P	AS=0.05383P	PD=0.91U	PS=0.97U
+ fw=2.05e-07 sa=2.5e-07 sb=2e-06 sca=15.5643 scb=0.0161016 scc=0.00117276
Mmn20@1	Mmn20@1:d	Mmn20@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.05383P	PD=0.64U	PS=0.97U
+ fw=2.6e-07 sa=4.39615e-07 sb=2e-06 sca=13.9783 scb=0.013979 scc=0.000942864
Mmn21@1	Mmn21@1:d	Mmn21@1:g	Mmn21@1:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0156P	PD=0.84U	PS=0.64U
+ fw=2.6e-07 sa=5.44615e-07 sb=1.935e-06 sca=13.9783 scb=0.013979 scc=0.000942864
Mmn21	Mmn21@1:d	Mmn21:g	Mmn21:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0156P	PD=0.84U	PS=0.64U
+ fw=2.6e-07 sa=7.49615e-07 sb=1.73e-06 sca=13.9783 scb=0.013979 scc=0.000942864
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0529P	PD=0.64U	PS=0.97U
+ fw=2.6e-07 sa=8.54615e-07 sb=1.625e-06 sca=13.9783 scb=0.013979 scc=0.000942864
Mmn22@1	ECK	Mmn22@1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.295U
+ AD=0.04804P	AS=0.04801P	PD=0.91571U	PS=0.91857U	M=7
+ fw=2.95e-07 sa=9.72203e-07 sb=1.39e-06 sca=16.4223 scb=0.0158966 scc=0.0014413
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0344P	PD=0.71U	PS=0.75U
+ fw=2.15e-07 sa=1.4e-07 sb=1.315e-06 sca=13.7363 scb=0.0116912 scc=0.000146315
Mmp5	Mmp5:d	Mmp5:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.04408P	AS=0.0344P	PD=0.84U	PS=0.75U
+ fw=2.15e-07 sa=3.45e-07 sb=1.11e-06 sca=11.6626 scb=0.00875241 scc=0.000120261
Mmp6	Mmp6:d	Mmp6:g	Mmp6:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.04408P	PD=0.75U	PS=0.84U
+ fw=2.15e-07 sa=5.95e-07 sb=8.6e-07 sca=10.7195 scb=0.00816954 scc=0.000119639
Mmp16	Mmp6:d	Mmp16:g	Mmp16:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.04408P	PD=0.75U	PS=0.84U
+ fw=2.15e-07 sa=8e-07 sb=6.55e-07 sca=10.5619 scb=0.00813366 scc=0.000119634
Mmp15	Mmp15:d	Mmp15:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.04408P	AS=0.0785P	PD=0.84U	PS=1.39U
+ fw=2.15e-07 sa=1.05e-06 sb=4.05e-07 sca=10.5619 scb=0.00813366 scc=0.000119634
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0785P	PD=0.71U	PS=1.39U
+ fw=2.15e-07 sa=1.315e-06 sb=1.4e-07 sca=10.5619 scb=0.00813366 scc=0.000119634
Mmp10	Mmp10:d	Mmp10:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0589P	AS=0.07465P	PD=1U	PS=1.69U
+ fw=3.1e-07 sa=1.9e-07 sb=2e-06 sca=15.1875 scb=0.0142433 scc=0.000935749
Mmp22@1	ECK	Mmn22@1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.445U
+ AD=0.06993P	AS=0.07073P	PD=1.20429U	PS=1.21U	M=7
+ fw=4.45e-07 sa=1.01719e-06 sb=1.37e-06 sca=17.9041 scb=0.0151963 scc=0.00151053
Mmp20@1	Mmp20@1:d	Mmp20@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.07127P	PD=1.1U	PS=1.45U	M=2
+ fw=3.9e-07 sa=3.26538e-07 sb=2e-06 sca=14.1011 scb=0.0127228 scc=0.000754417
Mmp21	Mmp20@1:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0624P	PD=1.1U	PS=1.1U	M=2
+ fw=3.9e-07 sa=5.31538e-07 sb=1.985e-06 sca=14.1011 scb=0.0127228 scc=0.000754417
.ENDS
.END
