*
*|DSPF 1.5
*
*|DATE "Wed May  8 12:06:33 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "TLATNX2"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  TLATNX2 GN QN D Q
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET GN 1.95075e-16
*|P (GN X 0 1.9000 0.6650)
*|I (Mmn0:g Mmn0 g X 0 1.9225 0.5075)
*|I (Mmp0:g Mmp0 g X 0 1.9225 1.0075)
*|S (GN:2 1.8850 0.6800)
*|S (GN:4 1.8850 0.6800)
C1 Mmp0:g VSS 3.80542e-17
C2 Mmn0:g VSS 3.31198e-17
C3 GN:2 VSS 3.2498e-17
C4 GN VSS 9.14026e-17
Rl1 GN:2 Mmn0:g 24.232828 $W=0.039
Rl2 Mmp0:g GN:2 70.386673 $W=0.039
Rk3 GN:4 GN 0.003656 $W=0.27
Rk4 GN:2 GN:4 45.000000 $W=0.27
*
*|NET QN 1.58804e-16
*|P (QN X 0 2.3000 0.6650)
*|I (Mmn22:d Mmn22 d X 0 2.2900 0.4500)
*|I (Mmp22:d Mmp22 d X 0 2.2900 1.0950)
C5 Mmp22:d VSS 9.01306e-17
C6 Mmn22:d VSS 3.36304e-17
C7 QN VSS 3.50427e-17
Rk5 Mmn22:d QN 75.087013 $W=0.1
Rk6 Mmp22:d QN 20.924707 $W=0.1
*
*|NET D 3.014e-16
*|P (D X 0 0.3000 0.8550)
*|I (Mmn5:g Mmn5 g X 0 0.5425 0.3775)
*|I (Mmp5:g Mmp5 g X 0 0.5425 1.1675)
*|S (D:2 0.5050 0.7150)
C8 Mmp5:g VSS 5.31232e-17
C9 Mmn5:g VSS 6.38788e-17
C10 D:2 VSS 1.24269e-16
C11 D VSS 6.01292e-17
Rl7 D:2 Mmn5:g 87.694366 $W=0.039
Rl8 Mmp5:g D:2 118.463600 $W=0.039
Rk9 D D:2 45.174671 $W=0.1
*
*|NET Q 1.55237e-16
*|P (Q X 0 3.3000 0.6650)
*|I (Mmn21:d Mmn21 d X 0 3.1225 0.4500)
*|I (Mmp21:d Mmp21 d X 0 3.1225 1.0950)
*|S (Q:1 3.1450 0.6650)
C12 Mmp21:d VSS 8.93053e-17
C13 Mmn21:d VSS 1.25591e-17
C14 Q:1 VSS 2.3861e-17
C15 Q VSS 2.95118e-17
Rk10 Q:1 Q 0.071629 $W=0.1
Rk11 Q:1 Mmn21:d 75.090721 $W=0.1
Rk12 Q:1 Mmp21:d 20.928411 $W=0.1
*
*|NET GNb 9.97112e-16
*|I (Mmn1:g Mmn1 g X 0 0.3325 0.3775)
*|I (Mmn6:g Mmn6 g X 0 0.6475 0.3775)
*|I (Mmn0:d Mmn0 d X 0 1.8300 0.5075)
*|I (Mmp1:g Mmp1 g X 0 0.3375 1.1675)
*|I (Mmp16:g Mmp16 g X 0 1.0975 1.1675)
*|I (Mmp0:d Mmp0 d X 0 1.8300 1.0075)
*|S (GNb:2 0.3050 0.5850)
*|S (GNb:5 0.6950 0.5850)
*|S (GNb:7 0.9600 0.9500)
*|S (GNb:10 1.8200 1.0550)
C16 Mmp0:d VSS 2.04483e-16
C17 Mmp16:g VSS 6.97139e-17
C18 Mmp1:g VSS 4.9595e-17
C19 Mmn0:d VSS 9.97371e-17
C20 Mmn6:g VSS 6.24594e-17
C21 Mmn1:g VSS 3.01269e-17
C22 GNb:2 VSS 9.72019e-17
C23 GNb:5 VSS 1.58822e-16
C24 GNb:7 VSS 2.24973e-16
Rl13 GNb:2 Mmn1:g 39.153313 $W=0.039
Rl14 Mmn6:g GNb:5 85.230728 $W=0.039
Rl15 Mmp1:g GNb:2 168.370010 $W=0.039
Rl16 Mmp16:g GNb:7 86.380310 $W=0.039
Rk17 GNb:7 GNb:5 0.388810 $W=0.08
Rk18 GNb:5 GNb:2 45.265251 $W=0.08
Rk19 GNb:10 GNb:7 1.342048 $W=0.08
Rk20 Mmn0:d GNb:10 75.589882 $W=0.08
Rk21 Mmp0:d GNb:10 62.000000 $W=0.08
*
*|NET GNbb 4.11191e-16
*|I (Mmn1:d Mmn1 d X 0 0.2400 0.3775)
*|I (Mmn16:g Mmn16 g X 0 0.8525 0.3775)
*|I (Mmp1:d Mmp1 d X 0 0.2450 1.1675)
*|I (Mmp6:g Mmp6 g X 0 0.7325 1.1675)
*|S (GNbb:2 0.7700 0.8950)
*|S (GNbb:4 0.2350 1.0250)
C25 Mmp6:g VSS 3.32637e-17
C26 Mmp1:d VSS 1.27124e-17
C27 Mmn16:g VSS 4.89939e-17
C28 Mmn1:d VSS 7.04262e-17
C29 GNbb:4 VSS 1.00847e-16
C30 GNbb:2 VSS 1.44948e-16
Rl22 Mmn16:g GNbb:2 166.052200 $W=0.039
Rl23 GNbb:2 Mmp6:g 51.373627 $W=0.039
Rk24 GNbb:2 GNbb:4 45.479366 $W=0.08
Rk25 GNbb:4 Mmn1:d 75.658089 $W=0.09
Rk26 GNbb:4 Mmp1:d 62.047855 $W=0.09
*
*|NET net257 0
*|I (Mmn5:d Mmn5 d X 0 0.5950 0.3775)
*|I (Mmn6:s Mmn6 s X 0 0.5950 0.3775)
Rmw27 Mmn6:s Mmn5:d 0.001000 $W=1
*
*|NET n0 4.50506e-16
*|I (Mmn6:d Mmn6 d X 0 0.7500 0.3775)
*|I (Mmn10:g Mmn10 g X 0 1.4325 0.4075)
*|I (Mmp6:d Mmp6 d X 0 0.9150 1.1675)
*|I (Mmp10:g Mmp10 g X 0 1.4675 1.2150)
*|S (n0:2 1.4275 0.6100)
*|S (n0:3 1.3450 0.6100)
*|S (n0:5 1.1200 0.6100)
C31 Mmp10:g VSS 7.07996e-17
C32 Mmp6:d VSS 9.75715e-17
C33 Mmn10:g VSS 3.49406e-17
C34 Mmn6:d VSS 6.78258e-17
C35 n0:5 VSS 1.03077e-16
C36 n0:2 VSS 2.37524e-17
C37 n0:3 VSS 5.25389e-17
Rl28 n0:2 n0:3 53.352409 $W=0.094
Rl29 n0:2 Mmn10:g 26.066698 $W=0.039
Rl30 Mmp10:g n0:2 172.683685 $W=0.039
Rk31 n0:3 n0:5 0.139054 $W=0.09
Rk32 n0:5 Mmn6:d 75.415367 $W=0.09
Rk33 n0:5 Mmp6:d 62.547329 $W=0.08
*
*|NET net245 6.91488e-18
*|I (Mmn16:s Mmn16 s X 0 1.0275 0.3775)
*|I (Mmn15:d Mmn15 d X 0 1.0275 0.3775)
C38 Mmn16:s VSS 6.91488e-18
Rmw34 Mmn15:d Mmn16:s 0.001000 $W=1
*
*|NET Qint 8.28301e-16
*|I (Mmn15:g Mmn15 g X 0 1.2025 0.3775)
*|I (Mmn10:d Mmn10 d X 0 1.5250 0.4075)
*|I (Mmn22:g Mmn22 g X 0 2.1875 0.4500)
*|I (Mmn20@1:g Mmn20@1 g X 0 2.5975 0.4500)
*|I (Mmp15:g Mmp15 g X 0 1.2025 1.1675)
*|I (Mmp10:d Mmp10 d X 0 1.6100 1.2475)
*|S (Qint:1 1.2800 0.9500)
*|S (Qint:2 1.2025 0.9500)
*|S (Qint:10 2.1300 0.6800)
*|S (Qint:19 1.5350 0.3650)
*|S (Qint:20 1.5350 0.9200)
C39 Mmp10:d VSS 3.96671e-17
C40 Mmp15:g VSS 6.0055e-17
C41 Mmn20@1:g VSS 1.40915e-16
C42 Mmn22:g VSS 1.18852e-16
C43 Mmn10:d VSS 1.18093e-16
C44 Mmn15:g VSS 6.04118e-17
C45 Qint:20 VSS 6.47394e-17
C46 Qint:2 VSS 4.61147e-17
C47 Qint:1 VSS 5.91555e-17
C48 Qint:10 VSS 1.20298e-16
Rl35 Qint:1 Qint:2 48.733437 $W=0.114
Rl36 Qint:2 Mmn15:g 187.341125 $W=0.039
Rl37 Mmn22:g Qint:10 49.885075 $W=0.094
Rl38 Mmn20@1:g Mmn22:g 72.348000 $W=0.039
Rl39 Qint:2 Mmp15:g 37.341133 $W=0.039
Rk40 Qint:19 Qint:10 0.675653 $W=0.08
Rk41 Qint:20 Qint:1 0.149957 $W=0.1
Rk42 Qint:20 Qint:19 0.415442 $W=0.09
Rk43 Qint:19 Mmn10:d 75.000000 $W=0.08
Rk44 Qint:20 Mmp10:d 62.190285 $W=0.09
*
*|NET Qbint 3.12678e-16
*|I (Mmn20@1:d Mmn20@1 d X 0 2.7000 0.4500)
*|I (Mmn21:g Mmn21 g X 0 3.0075 0.4500)
*|I (Mmp20:d Mmp20 d X 0 2.7000 1.0950)
*|S (Qbint:4 2.9450 0.6800)
*|S (Qbint:8 2.7000 0.6800)
C49 Mmp20:d VSS 8.54139e-17
C50 Mmn21:g VSS 1.36737e-16
C51 Mmn20@1:d VSS 1.62995e-17
C52 Qbint:8 VSS 2.25477e-17
C53 Qbint:4 VSS 5.16806e-17
Rl45 Mmn21:g Qbint:4 50.635075 $W=0.094
Rk46 Qbint:8 Qbint:4 0.147951 $W=0.1
Rk47 Qbint:8 Mmn20@1:d 75.117561 $W=0.1
Rk48 Qbint:8 Mmp20:d 20.968849 $W=0.09
*
*|NET net220 0
*|I (Mmp5:d Mmp5 d X 0 0.6375 1.1675)
*|I (Mmp6:s Mmp6 s X 0 0.6375 1.1675)
Rmw49 Mmp6:s Mmp5:d 0.001000 $W=1
*
*|NET net212 6.52001e-19
*|I (Mmp16:s Mmp16 s X 0 1.1500 1.1675)
*|I (Mmp15:d Mmp15 d X 0 1.1500 1.1675)
C54 Mmp16:s VSS 6.52001e-19
Rmw50 Mmp15:d Mmp16:s 0.001000 $W=1
*
*Instance Section
*
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.02393P	PD=0.57U	PS=0.62U
+ fw=1.45e-07 sa=1.4e-07 sb=1.24e-06 sca=8.0352 scb=0.00565402 scc=8.19771e-05
Mmn5	Mmn5:d	Mmn5:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0087P	AS=0.02393P	PD=0.41U	PS=0.62U
+ fw=1.45e-07 sa=3.5e-07 sb=1.03e-06 sca=8.0352 scb=0.00565402 scc=8.19771e-05
Mmn6	Mmn6:d	Mmn6:g	Mmn6:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.0087P	PD=0.61U	PS=0.41U
+ fw=1.45e-07 sa=4.55e-07 sb=9.25e-07 sca=8.0352 scb=0.00565402 scc=8.19771e-05
Mmn16	Mmn6:d	Mmn16:g	Mmn16:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.04423P	PD=0.61U	PS=0.9U
+ fw=1.45e-07 sa=6.6e-07 sb=7.2e-07 sca=8.0352 scb=0.00565402 scc=8.19771e-05
Mmn15	Mmn15:d	Mmn15:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.04423P	AS=0.03283P	PD=0.9U	PS=0.78U
+ fw=1.45e-07 sa=1.01e-06 sb=3.7e-07 sca=8.0352 scb=0.00565402 scc=8.19771e-05
Mmn10	Mmn10:d	Mmn10:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0287P	AS=0.03283P	PD=0.69U	PS=0.78U
+ fw=2.05e-07 sa=9.06341e-07 sb=1.4e-07 sca=9.00745 scb=0.0073653 scc=0.000173562
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.08025P	PD=0.57U	PS=1.44U
+ fw=1.45e-07 sa=1.4e-07 sb=1.455e-06 sca=13.6097 scb=0.014254 scc=0.000755054
Mmn22	Mmn22:d	Mmn22:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.06093P	PD=0.84U	PS=1.14U	M=2
+ fw=2.6e-07 sa=3.01058e-07 sb=1.19e-06 sca=11.0409 scb=0.0104003 scc=0.000454168
Mmn20@1	Mmn20@1:d	Mmn20@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0416P	PD=0.84U	PS=0.84U	M=2
+ fw=2.6e-07 sa=7.11058e-07 sb=7.8e-07 sca=11.0409 scb=0.0104003 scc=0.000454168
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0481P	AS=0.039P	PD=0.89U	PS=0.82U	M=2
+ fw=2.6e-07 sa=1.12106e-06 sb=3.7e-07 sca=11.0409 scb=0.0104003 scc=0.000454168
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0344P	PD=0.71U	PS=0.75U
+ fw=2.15e-07 sa=1.4e-07 sb=1.25791e-06 sca=18.8037 scb=0.0201527 scc=0.000687752
Mmp5	Mmp5:d	Mmp5:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.03118P	AS=0.0344P	PD=0.72U	PS=0.75U
+ fw=2.15e-07 sa=3.45e-07 sb=1.05291e-06 sca=15.2131 scb=0.0141215 scc=0.000547625
Mmp6	Mmp6:d	Mmp6:g	Mmp6:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0688P	AS=0.03118P	PD=1.07U	PS=0.72U
+ fw=2.15e-07 sa=5.35e-07 sb=8.62907e-07 sca=14.0479 scb=0.0129451 scc=0.00054411
Mmp16	Mmp6:d	Mmp16:g	Mmp16:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0688P	AS=0.0129P	PD=1.07U	PS=0.55U
+ fw=2.15e-07 sa=9e-07 sb=4.97907e-07 sca=13.4114 scb=0.012694 scc=0.000544005
Mmp15	Mmp15:d	Mmp15:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0129P	AS=0.09465P	PD=0.55U	PS=1.58U
+ fw=2.15e-07 sa=1.005e-06 sb=3.92907e-07 sca=13.4114 scb=0.012694 scc=0.000544005
Mmp10	Mmp10:d	Mmp10:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0408P	AS=0.09465P	PD=0.9U	PS=1.58U
+ fw=3.1e-07 sa=9.32903e-07 sb=1.31613e-07 sca=12.3129 scb=0.0108562 scc=0.00039161
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0648P	PD=0.71U	PS=1.22U
+ fw=2.15e-07 sa=1.4e-07 sb=1.455e-06 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp22	Mmp22:d	Mmn22:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0636P	PD=1.1U	PS=1.16U	M=2
+ fw=3.9e-07 sa=2.68141e-07 sb=1.19e-06 sca=30.5009 scb=0.0202006 scc=0.00336097
Mmp20	Mmp20:d	Mmn20@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0624P	PD=1.1U	PS=1.1U	M=2
+ fw=3.9e-07 sa=6.78141e-07 sb=7.8e-07 sca=30.5009 scb=0.0202006 scc=0.00336097
Mmp21	Mmp21:d	Mmn21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.07215P	AS=0.0585P	PD=1.15U	PS=1.08U	M=2
+ fw=3.9e-07 sa=1.08814e-06 sb=3.7e-07 sca=31.8955 scb=0.0211257 scc=0.00336241
.ENDS
.END
